US04309566
In the reaction vessel, 4.3 grams (0.09 mole) of a 50% suspension of sodium hydride in mineral oil was washed with two portions of 50 ml each of hexane, then two portions of 50 ml each of toluene. Dry toluene, 75 ml, was added and with stirring a solution of 10.0 grams (0.082 mole) of benzoic acid in 200 ml of dry toluene was added dropwise. The exothermic reaction caused the temperature of the reaction mixture to rise from 27° to 32°. Upon completion of the addition, the reaction mixture was heated under reflux for 1.5 hour. The mixture was cooled to ambient temperature and 8.4 grams (0.09 mole) of 2-chloroacetamide was added in portions. Upon completion of the addition, the reaction mixture was heated under reflux for 18 hours. An additional 150 ml of dry toluene was added and heating under reflux continued an additional 24 hours. The reaction mixture was cooled to ambient temperature and a solid precipitate collected by filtration. The filtrate was extracted with two portions of 200 ml each of water. The milky organic layer was dried twice with sodium sulfate and filtered. the filtrate was evaporated under reduced pressure to a solid residue, which produced bubbling in the presence of aqueous saturated sodium bicarbonate solution, and was concluded to be unreacted benzoic acid. The solid collected by filtration from the original reaction mixture was dissolved in 200 ml of ethyl acetate and washed with two portions of 100 ml each of water. The organic layer was dried with sodium sulfate and filtered. The filtrate was evaporated under reduced pressure to a solid residue. The solid was recrystallized from toluene to give 3.7 grams of (aminocarbonyl)methyl benzoate; mp 118°-120 . The ir and the nmr spectra were consistent with the proposed structure.

reactant | benzoic acid | 0.082 mole, 10.0 grams | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | 2-chloroacetamide | 0.09 mole, 8.4 grams | ClCC(=O)N | C2H4ClNO
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | (aminocarbonyl)methyl benzoate | 3.7 grams | C(C1=CC=CC=C1)(=O)OCC(=O)N | C9H9NO3
